US04204068
Diethyl acetamidomalonate (16.7 g) and ethyl 7-bromoheptanoate (16.6 g) were dissolved in ethanolic ethoxide (prepared from sodium (1.51 g) and absolute ethanol (30 ml)) and the mixture was refluxed for 27 hours. The cooled solution was poured into ice-water, the product was extracted into ether, and the dried extract was evaporated to give crude diethyl acetamido-(6-ethoxycarbonylhexyl) malonate as a pale yellow oil, δ2.2(3H, singlet, --COCH3), 4.17(6H, multiplet, 3×--OCH2 --CH3). This amide was refluxed with concentrated hydrochloric acid (111 ml) for 51/2 hours, the cooled solution was washed with ether, and the aqueous layer was decolorised with activated charcoal and evaporated to dryness in vacuo. The residual colourless glass was dissolved in the minimum quantity of absolute ethanol and added dropwise to a stirred, cooled (-10° C.) mixture of absolute ethanol (125 ml) and thionyl chloride (15.7 g). The resulting solution was set aside at room temperature for 1 hour, refluxed for 11/2 hours, cooled, and poured into ice-water adjusting the pH to 9 with aqueous sodium hydroxide. The mixture was extracted with ether, and the dried extract was concentrated and distilled, giving diethyl 2-aminononanedioate (55% yield) as a colourless oil, b.p. 114°-115°/0.02--0.3 mm.

reactant | Diethyl acetamidomalonate | 16.7 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | ethyl 7-bromoheptanoate | 16.6 g | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | hydrochloric acid | 111 ml | Cl | ClH
solvent | ethoxide | 30 ml, 1.51 g | [O-]CC
product | diethyl 2-aminononanedioate | 55% yield | NC(C(=O)OCC)CCCCCCC(=O)OCC | C13H25NO4
